US06943159B1
7-Amino-3-cyclohexyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide:
A stirred suspension of 3-cyclohexyl-7-nitro-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide (4.2 g; 14 mmol) and 10% Pd/C (400 mg) in abs. EtOH (100 ml) was hydrogenated at 1 bar. After consumption of the calculated amount of H2, the reaction mixture was filtered through celite. The celite was washed twice with DMF (75 ml) and the combined organic fractions were evaporated to dryness. The remanense was resuspended in EtOAc/i-PrOH and the precipitate formed, was isolated by filtration. The isolated solid was dissolved in 0.5 M NaOH (aq.) and reprecipitated with 4 M HCl (aq.). Filtration gave 1.6 g product.

reactant | 3-cyclohexyl-7-nitro-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | 14 mmol, 4.2 g | C1(CCCCC1)C=1NS(C2=C(N1)C=CC(=C2)[N+](=O)[O-])(=O)=O | C13H15N3O4S
reactant | EtOH | 100 ml | CCO | C2H6O
solvent | NaOH | 0.5 M | [OH-].[Na+]
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 7-Amino-3-cyclohexyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | 1.6 g | NC1=CC2=C(N=C(NS2(=O)=O)C2CCCCC2)C=C1 | C13H17N3O2S
